US07517828B2
Synthesis of 2,4,6-trimethylboronic acid (GA33)
Magnesium (60.27 mmol) and tetrahydrofuran (30 mL) were put in a three-necked round bottom flask and stirred. To the solution, bromomesitylene (13.07 mmol) was added, and the reaction mixture was heated. After that, bromomesitylene (32.02 mmol) dissolved in tetrahydrofuran (30 mL) was added dropwise to the solution. The reaction mixture was heated and refluxed for 4.5 hours. Then, the mixture was cooled to −78° C. (EtO)3B (111.66 mmol) was added dropwise over 15 minutes. After that, the mixture was warmed to room temperature and stirred for additional 5 hours. Then the mixture was cooled to 0° C. The reaction was quenched by the addition of 1 M hydrochloric acid and stirring for additional 2 hours. The reaction mixture was extracted with diethyl ether three times. The combined extracts was washed with brine and dried over anhydrous sodium sulfate. After the drying, the extract was filtered. The filtrate was concentrated to give a solid, which was recrystallized in benzene to give GA33 (26.10 mmol, yield: 58%).

reactant | Magnesium | 60.27 mmol | [Mg] | Mg
reactant | bromomesitylene | 13.07 mmol | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | bromomesitylene | 32.02 mmol | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | (EtO)3B | 111.66 mmol | B(OCC)(OCC)OCC | C6H15BO3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2,4,6-trimethylboronic acid | yield: 58% | B(C1=C(C=C(C=C1C)C)C)(O)O | C9H13BO2
